US09260425B2
A microwave reaction vial was charged with 3-(5-chloro-6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine (387.1 mg, 0.8489 mmol), methyl boronic acid (254.1 mg, 4.245 mmol), 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride (69.3 mg, 0.085 mmol), 1.00 M of Potassium acetate in Water (1.27 mL, 1.27 mmol), 1.00 M of Sodium carbonate in Water (1.27 mL, 1.27 mmol), and Acetonitrile (10 mL). The reaction mixture was heated under microwave at 150° C. for 5 minutes. Added another 5 equivalences of Methyl boronic acid and continue heated under microwave at 150° C. for 3 minutes. The same procedure was repeated one more times. The mixture was concentrated, and the residue was purified on silica eluted with 0 to 100% EtOAc in Heptane to afford 3-(6-fluoro-5-methylpyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine (311.7 mg, 84%).

reactant | 3-(5-chloro-6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | 0.8489 mmol, 387.1 mg | ClC=1C=CC(=NC1F)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C22H23ClFN5OSi
reactant | methyl boronic acid | 4.245 mmol, 254.1 mg | CB(O)O | CH5BO2
reactant | Potassium acetate | 1.00 M | C(C)(=O)[O-].[K+]
reactant | Water | 1.27 mmol, 1.27 mL | O | H2O
reactant | Water | 1.27 mmol, 1.27 mL | O | H2O
solvent | Sodium carbonate | 1.00 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.085 mmol, 69.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-(6-fluoro-5-methylpyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | 311.7 mg, 84% | FC1=C(C=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C)C | C23H26FN5OSi
